US07285441B2
A mixed solution of 3.16 g (39.5 mmol) of 1,3-cyclohexadiene, 10.5 g (34.1 mmol) of trans-1,2-bis(phenylsulfonyl)ethylene, and 200 ml of toluene was refluxed for 7 hours. Then, the mixed solution was cooled and concentrated under reduced pressure to yield a reaction mixture. The reaction crude product was recrystallized (chloroform/hexane) to yield 5,6-bis(phenylsulfonyl)-bicyclo[2,2,2]octa-2-ene (13.8 g, 35.6 mmol, 90% yield).

reactant | 1,3-cyclohexadiene | 39.5 mmol, 3.16 g | C1=CC=CCC1 | C6H8
reactant | trans-1,2-bis(phenylsulfonyl)ethylene | 34.1 mmol, 10.5 g | C1(=CC=CC=C1)S(=O)(=O)\C=C\S(=O)(=O)C1=CC=CC=C1 | C14H12O4S2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5,6-bis(phenylsulfonyl)-bicyclo[2,2,2]octa-2-ene | 35.6 mmol, 13.8 g, 90% yield | C1(=CC=CC=C1)S(=O)(=O)C1C2C=CC(C1S(=O)(=O)C1=CC=CC=C1)CC2 | C20H20O4S2
